US09120777B2
G) 1-(1-((2-Cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A mixed solution of methyl 1-(1-((2-cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate (103 mg), a 1 M aqueous sodium hydroxide solution (1 mL), and ethanol (2 mL) was stirred at 70 C for 1 hour. The obtained reaction solution was neutralized with 1 M hydrochloric acid and, in this state, stirred at room temperature for 3 hours. The resulting solid was collected by filtration and recrystallized (ethyl acetate) to obtain the title compound (70.3 mg).

reactant | methyl 1-(1-((2-cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate | 103 mg | C1(CC1)C1=C(C=C(C(=C1)CN1CCC(CC1)N1C(C=C(C=C1)C(=O)OC)=O)OC(C)C)C1=CC=C(C=C1)F | C31H35FN2O4
reactant | sodium hydroxide | 1 M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(1-((2-Cyclopropyl-4′-fluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 70.3 mg | C1(CC1)C1=C(C=C(C(=C1)CN1CCC(CC1)N1C(C=C(C=C1)C(=O)O)=O)OC(C)C)C1=CC=C(C=C1)F | C30H33FN2O4
